US08202858B2
4-((1E,3E)-4-Methoxycarbonyl-buta-1,3-dienyl)-3-methyl-benzoic Acid Tert-butyl Ester
Tetrakis(triphenylphosphine)palladium (0) (852 mg, 0.7 mol) was added to a stirred solution of 4-bromo-3-methyl-benzoic acid tert-butyl ester from Example E31.1 (1.86 g, 6.8 mmol), 1-acetoxy-1,3-butadiene (7.5 ml, 64.5 mmol) and sodium acetate (5.69 g, 69.4 mmol) in DMA (75 ml). The mixture was heated at 140° C. for 3 h, filtered through Celite® filter agent and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 20% EtOAc:80% pet. ether) to yield the title compound (1.54 g, 74%).

reactant | 4-bromo-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)Br)C)=O | C12H15BrO2
reactant | 1-acetoxy-1,3-butadiene | 64.5 mmol, 7.5 ml | C(C)(=O)OC=CC=C | C6H8O2
reactant | sodium acetate | 69.4 mmol, 5.69 g | C(C)(=O)[O-].[Na+]
reactant | DMA | 75 ml | CC(=O)N(C)C | C4H9NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.7 mol, 852 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-((1E,3E)-4-Methoxycarbonyl-buta-1,3-dienyl)-3-methyl-benzoic Acid Tert-butyl Ester | 1.54 g, 74% | C(C)(C)(C)OC(C1=CC(=C(C=C1)\C=C\C=C\C(=O)OC)C)=O | C18H22O4
